US04160032
To a solution of sodium ethoxide prepared by heating 5.5 g. of sodium in 200 ml. of ethanol at 70° C. is added 17 g. of 7-chloro-3-hydrazono-oxindole over a period of 3.5 hours, and the resulting solution is heated at 70° C. for 24 hours. The solvent is evaporated in vacuo, the residue dissolved in water, acidified with 6 N. hydrochloric acid and the resulting precipitate recovered by filtering, washed three times with water, dried by suction and crystallized from methylene chloride/ether to obtain 7-chlorooxindole, 218°-220° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | [Na] | Na
reactant | 7-chloro-3-hydrazono-oxindole | ClC=1C=CC=C2C(C(NC12)=O)=NN | C8H6ClN3O
solvent | ethanol | C(C)O | C2H6O
product | 7-chlorooxindole | ClC=1C=CC=C2CC(NC12)=O | C8H6ClNO
